US06826033B2
tert-Butyl N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]-N-[(1S)-2-hydroxy-1-(4-[[(1-methyl-1H-indol-5-yl)carbonyl]amino]benzyl]ethyl]carbamate (101 mg) was dissolved in 4N hydrogen chloride in ethanol (1.0 ml) and the solution was stirred at room temperature for 5 hours. The solvent was removed by evaporation and the residual solid was dissolved in methanol. To the solution was added 1N sodium hydroxide solution (175 μl) and the solvent was removed by evaporation. The residue was chromatographed on silica gel (eluent: chloroform/methanol=9/1) to give N-[4-[(2S)-2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]-3-hydroxypropyl]phenyl]-1-methyl-1H-indole-5-carboxamide (34.2 mg) as a pale yellow solid.

reactant | tert-Butyl N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]-N-[(1S)-2-hydroxy-1-(4-[[(1-methyl-1H-indol-5-yl)carbonyl]amino]benzyl]ethyl]carbamate | 101 mg | ClC=1C=C(C=CC1)[C@H](CN(C(OC(C)(C)C)=O)[C@H](CO)CC1=CC=C(C=C1)NC(=O)C=1C=C2C=CN(C2=CC1)C)O | C32H36ClN3O5
solvent | hydrogen chloride | 4N | Cl | ClH
solvent | ethanol | 1.0 ml | C(C)O | C2H6O
product | N-[4-[(2S)-2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]-3-hydroxypropyl]phenyl]-1-methyl-1H-indole-5-carboxamide | 34.2 mg | ClC=1C=C(C=CC1)[C@H](CN[C@@H](CC1=CC=C(C=C1)NC(=O)C=1C=C2C=CN(C2=CC1)C)CO)O | C27H28ClN3O3
